************************************************************************
* auCdl Netlist:
* 
* Library Name:  MULTIPLIER
* Top Cell Name: W_Mul
* View Name:     schematic
* Netlisted on:  Jun 25 21:42:50 2020
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: MULTIPLIER
* Cell Name:    inverter
* View Name:    schematic
************************************************************************

.SUBCKT inverter A B GND VDD
*.PININFO A:I GND:I VDD:I B:O
MM0 B A GND GND NMOS_VTL W=90n L=50n m=1
MM1 B A VDD VDD PMOS_VTL W=180.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: MULTIPLIER
* Cell Name:    nand2
* View Name:    schematic
************************************************************************

.SUBCKT nand2 A B GND VDD Y
*.PININFO A:I B:I GND:I VDD:I Y:O
MM1 Y B VDD VDD PMOS_VTL W=180.0n L=50n m=1
MM0 Y A VDD VDD PMOS_VTL W=180.0n L=50n m=1
MM2 Y A n1 GND NMOS_VTL W=180.0n L=50n m=1
MM3 n1 B GND GND NMOS_VTL W=180.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: MULTIPLIER
* Cell Name:    and2
* View Name:    schematic
************************************************************************

.SUBCKT and2 A B GND VDD Y
*.PININFO A:I B:I GND:I VDD:I Y:O
XI3 net8 Y GND VDD / inverter
XI2 A B GND VDD net8 / nand2
.ENDS

************************************************************************
* Library Name: MULTIPLIER
* Cell Name:    transmission
* View Name:    schematic
************************************************************************

.SUBCKT transmission GND IN IN2 IN3 OUT VDD
*.PININFO GND:I IN:I IN2:I IN3:I VDD:I OUT:O
MM0 IN IN3 OUT GND NMOS_VTL W=90n L=50n m=1
MM1 IN IN2 OUT VDD PMOS_VTL W=180.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: MULTIPLIER
* Cell Name:    TGFA_2010
* View Name:    schematic
************************************************************************

.SUBCKT TGFA_2010 A B Cin Cout GND Sum VDD
*.PININFO A:I B:I Cin:I GND:I VDD:I Cout:O Sum:O
MM6 net21 Cin Sum GND NMOS_VTL W=90n L=50n m=1
MM5 net21 net11 GND GND NMOS_VTL W=90n L=50n m=1
MM1 net42 B GND GND NMOS_VTL W=90n L=50n m=1
MM0 net11 A net42 GND NMOS_VTL W=90n L=50n m=1
MM7 net11 Cin Sum VDD PMOS_VTL W=180.0n L=50n m=1
MM4 net21 net11 VDD VDD PMOS_VTL W=180.0n L=50n m=1
MM2 B A net11 VDD PMOS_VTL W=180.0n L=50n m=1
MM3 net11 B A VDD PMOS_VTL W=180.0n L=50n m=1
XI2 GND A net11 net21 Cout VDD / transmission
XI1 GND Cin net21 net11 Cout VDD / transmission
XI0 GND Cin net11 net21 Sum VDD / transmission
.ENDS

************************************************************************
* Library Name: MULTIPLIER
* Cell Name:    W_Mul
* View Name:    schematic
************************************************************************

.SUBCKT W_Mul GND P0 P1 P2 P3 P4 P5 P6 P7 VDD X0 X1 X2 X3 Y0 Y1 Y2 Y3
*.PININFO GND:I VDD:I X0:I X1:I X2:I X3:I Y0:I Y1:I Y2:I Y3:I P0:O P1:O P2:O 
*.PININFO P3:O P4:O P5:O P6:O P7:O
XI15 X0 Y0 GND VDD P0 / and2
XI14 X1 Y0 GND VDD net53 / and2
XI13 X0 Y1 GND VDD net52 / and2
XI12 X2 Y0 GND VDD net59 / and2
XI11 X1 Y1 GND VDD net91 / and2
XI10 X0 Y2 GND VDD net60 / and2
XI9 X3 Y0 GND VDD net61 / and2
XI8 X2 Y1 GND VDD net90 / and2
XI7 X1 Y2 GND VDD net62 / and2
XI6 X0 Y3 GND VDD net73 / and2
XI5 X3 Y1 GND VDD net57 / and2
XI4 X2 Y2 GND VDD net89 / and2
XI3 X1 Y3 GND VDD net58 / and2
XI2 X3 Y2 GND VDD net63 / and2
XI1 X2 Y3 GND VDD net64 / and2
XI0 X3 Y3 GND VDD net75 / and2
XI40 net75 net83 net84 P7 GND P6 VDD / TGFA_2010
XI39 net81 net82 net86 net84 GND P5 VDD / TGFA_2010
XI38 net79 net78 net87 net86 GND P4 VDD / TGFA_2010
XI37 net77 net76 GND net87 GND P3 VDD / TGFA_2010
XI35 net70 net66 GND net76 GND P2 VDD / TGFA_2010
XI34 net73 net69 net68 net78 GND net77 VDD / TGFA_2010
XI33 net72 net71 GND net82 GND net79 VDD / TGFA_2010
XI32 net64 net63 net67 net83 GND net81 VDD / TGFA_2010
XI31 net52 net53 GND net66 GND P1 VDD / TGFA_2010
XI30 net60 net91 net59 net68 GND net70 VDD / TGFA_2010
XI29 net62 net90 net61 net71 GND net69 VDD / TGFA_2010
XI28 net58 net89 net57 net67 GND net72 VDD / TGFA_2010
.ENDS

